US07381719B2
Synthesis of 3-Fluoro-4-(4-formyl-phenoxy)-benzonitrile
Basic displacement reaction of 4-hydroxy benzaldehyde and 3,4 difluorobenzonitrile using potassium carbonate in anhydrous DMF at reflux temperatures affords the above compound.

reactant | 4-hydroxy benzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3,4 difluorobenzonitrile | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Fluoro-4-(4-formyl-phenoxy)-benzonitrile | FC=1C=C(C#N)C=CC1OC1=CC=C(C=C1)C=O | C14H8FNO2
